US08445501B2
4-(5-Propoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [(R)-1-((S)-2-hydroxy-propionyl)-pyrrolidin-3-yl]amide
Starting from 4-(5-propoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (R)-pyrrolidin-3-ylamide (example A178) and acetic acid (S)-1-chlorocarbonyl-ethyl ester the title compound was obtained as colorless solid.

reactant | 4-(5-propoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (R)-pyrrolidin-3-ylamide | N1C[C@@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCC | C21H23N5O4
reactant | acetic acid (S)-1-chlorocarbonyl-ethyl ester | ClC(=O)[C@H](C)OC(C)=O | C5H7ClO3
product | 4-(5-Propoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [(R)-1-((S)-2-hydroxy-propionyl)-pyrrolidin-3-yl]amide | O[C@H](C(=O)N1C[C@@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCC)C | C24H27N5O6
